US05185342
Production of (E)-N-methyl-2-[2-(3-tetrahydropyran-2-yloxyphenoxy)phenyl]-2-methoxyiminoacetamide (Compound No. 84)
To a solution of methyl-2-[2-(3-hydroxyphenoxy)phenyl]-2-methoxyiminoacetate (0.25 g) in dichloromethane (10 ml), dihydropyrane (0.3 ml) and PPTS (20 mg) were added, and the resultant mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with dichloromethane, washed with a saturated aqueous sodium hydrogencarbonate solution, followed by removal of the solvent. The residue was dissolved in methanol (3 ml), and 40% methanolic methylamine (0.5 ml) was added thereto. The resultant mixture was stirred at room temperature for 15 hours. The solvent and excess methylamine were removed, and the residue was purified by silica gel column chromatography to give 0.27 g of the objective compound.

reactant | methyl-2-[2-(3-hydroxyphenoxy)phenyl]-2-methoxyiminoacetate | 0.25 g | COC(C(=NOC)C1=C(C=CC=C1)OC1=CC(=CC=C1)O)=O | C16H15NO5
reactant | PPTS | 20 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | dihydropyrane | 0.3 ml | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-N-methyl-2-[2-(3-tetrahydropyran-2-yloxyphenoxy)phenyl]-2-methoxyiminoacetamide | 0.27 g | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC(=CC=C1)OC1OCCCC1)=O | C21H24N2O5
